Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins
 
Attending: ___.
 
Chief Complaint:
Asthma/Flu
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a a ___ woman with PMHx significant for DM, 
HTN, asthma, and multiple chronic pain issues including low back 
pain and migraines, who presents with a 1 day history of 
generalized body aches, headache, fever, chills, nausea, and 
vomiting. The patient states that ___ days ago she developed 
fever, cough productive of light sputum, and sore throat. Since 
then it has progressed to severe body aches. States it hurts 
when she coughs. She reports that yesterday she vomited ___ 
times non-bloody, has not vomited today. Normal bowel movements 
with the last one being yesterday. Today she complains of 
subjective feeling of abdominal distention. Additionally she has 
had a headache for the last few days. 

In the ED, initial vital signs were: T 104 P 95 BP 117/53 R 18 
O2 sat 97%. Exam was notable for diffuse mild expiratory wheeze, 
generalized body tenderness, intact neurologic exam. Labs were 
notable for lactate 1.0, WBC 2.7, H/H 9.2/28.8, BUN/Cr ___. 
Patient was held overnight for further evaluation. Patient was 
given 1L of fluids, tamiflu and her usual medications as well as 
metoclopramide.

 
Past Medical History:
PMH: Chronic Back Pain, Asthma, DM, Hyperlipidemia, HTN, 
migraine, OA, OSA, diverticulosis

PSH: History of 11 prior abdominal procedures including ovarian 
procedure, bowel perforation, Hysterectomy, Ovaryiectomy 
w/single remaining ovary
 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
ADMISSION EXAM:
Vitals-  T98.2  P72  BP104/66  RR 18 O2 Sat 100% Room Air
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection.  Oropharynx is clear.
NECK:  No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Diffuse expiratory wheezes bilaterally. 
ABDOMEN: Obese, Normal bowels sounds, non distended, mildly 
tender to deep palpation, worse on left.  No organomegaly 
aprreciated.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  Grossly normal strength througout.  
Normal sensation.

DISCHARGE EXAM:
Vitals-  98.1| 124-144/60-90| 60-90s| 18| 100% on RA
GENERAL: AOx3, NAD, sitting up in bed
HEENT: EOMI
NECK:  No cervical lymphadenopathy.
CARDIAC: RRR, no m/r/g
LUNGS: Few expiratory wheezes bilaterally 
ABDOMEN: Obese, non distended, no TTP
EXTREMITIES: No edema
NEUROLOGIC: Alert and oriented.  

 
Pertinent Results:
ADMISSION LABS:
___ 03:40PM BLOOD WBC-4.7# RBC-3.59* Hgb-10.2* Hct-32.0* 
MCV-89 MCH-28.4 MCHC-31.9* RDW-14.9 RDWSD-47.9* Plt Ct-78*
___ 03:40PM BLOOD Neuts-53.7 ___ Monos-10.4 
Eos-0.4* Baso-0.6 Im ___ AbsNeut-2.52# AbsLymp-1.60 
AbsMono-0.49 AbsEos-0.02* AbsBaso-0.03
___ 03:40PM BLOOD Glucose-119* UreaN-22* Creat-1.3* Na-134 
K-4.3 Cl-99 HCO3-21* AnGap-18
___ 03:45PM BLOOD Lactate-2.2*
___ 06:37AM BLOOD Lactate-1.0
___ 05:21AM BLOOD Calcium-8.3* Phos-2.2* Mg-2.5
___ 05:21AM BLOOD Glucose-213* UreaN-21* Creat-1.0 Na-140 
K-4.2 Cl-107 HCO3-24 AnGap-13
___ 05:21AM BLOOD WBC-2.3* RBC-3.29* Hgb-9.1* Hct-29.7* 
MCV-90 MCH-27.7 MCHC-30.6* RDW-14.7 RDWSD-48.9* Plt Ct-65*

DISCHARGE LABS:
___ 05:21AM BLOOD WBC-2.3* RBC-3.29* Hgb-9.1* Hct-29.7* 
MCV-90 MCH-27.7 MCHC-30.6* RDW-14.7 RDWSD-48.9* Plt Ct-65*
___ 05:21AM BLOOD Glucose-213* UreaN-21* Creat-1.0 Na-140 
K-4.2 Cl-107 HCO3-24 AnGap-13
___ 06:37AM BLOOD Lactate-1.0

IMAGING/REPORTS:

CXR ___
No focal consolidation is seen.  No pleural effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are stable. 
IMPRESSION:  
No acute cardiopulmonary process.  No focal consolidation to 
suggest 
pneumonia.

HEAD CT ___
There is no hemorrhage, acute infarction, edema, large mass, or 
mass effect.  Mild prominence of the ventricles and sulci is 
consistent with age-appropriate global involutional change.  
There is preservation of gray-white matter differentiation.  The 
basal cisterns are patent, and there is no shift of normally 
midline structures.  There is mild left maxillary sinus, 
sphenoid sinus, and ethmoid air cell mucosal thickening.  The 
frontal and right maxillary sinuses are clear.  The mastoid air 
cells are clear.  The globes and bony orbits are intact and 
unremarkable. 
IMPRESSION:  
No acute intracranial process.

ABDOMINAL XRAY ___
There are no abnormally dilated loops of large or small bowel.  
Air and stool is seen in the large bowel to the rectum. 
There is no free intraperitoneal air. 
Osseous structures are unremarkable. Surgical clips are seen in 
the right 
pelvis. Note is made of 6 lumbar type vertebral bodies. 
There are no unexplained soft tissue calcifications or 
radiopaque foreign 
bodies. 
IMPRESSION: 
Nonobstructive bowel gas pattern. 
 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
___ woman with PMHx significant for DM, HTN, asthma, and 
multiple chronic pain issues including low back pain and 
migraines, who presented with Flu A and asthma flare.

#Asthma Flare: Patient has known asthma but baseline peak flow 
is unknown, she has never been admitted or intubated in the past 
for asthma. She uses her albuterol ___ per wk. Peak flow on 
admission was 150, on discharge 225 with ambulatory saturation 
at 97%. She was started on prednisone 40mg per day, Day 1 
___. She was given duonebs PRN Q4HPRN. Her oxygenation 
saturation remained good on room air. The patient was adamant 
about leaving on day of discharge, understood that should her 
symptoms worsen or not continue to improve she should return to 
the emergency department.

#Patient reported approximately a week of symptoms including 
fevers and body aches as well as sore throat, nausea and 
vomiting. She was found to be flu A positive in the ED. She was 
started on Tamiflu BID x 5 days. D1 ___. Last ___.

#Abdominal Pain: Patient has had EGD and colonoscopy several 
years ago which showed diverticulosis. Patient has had history 
of multiple abdominal surgeries. Current pain possibly secondary 
to repeated retching and vomiting. However she has been passing 
gas and having normal bowel movements. KUB without obstruction. 
LFTs stable to chronic mild elevation. Lipase WNL.

CHRONIC
# Thrombocytopenia: 50 on admission. Has continued to drop over 
the last year. Recent baseline appears to be ___. Followed by 
Heme Dr. ___, MD. ___ etiology is likely ITP. Held SC 
Heparin for low platelets.

# DIABETES MELLITUS: Last hgA1C 7.7%. On Metformin, Glipizide, 
and insulin. Held oral medications. Continued insulin, added 
sliding scale.

# HYPERLIPIDEMIA: Continued on home simivstatin 40 mg. 

# HYPERTENSION: Home lisinopril and furosemide held in setting 
of mild hypotension, restarted on discharge.

TRANSITIONAL ISSUES:
-Re-check Peak flow (peak flow 225 on discharge) 
-Prednisone 40 mg PO for 7 days D1 ___ last day ___ 
-Patients WBC decreased, please re-check CBC with diff to ensure 
patient isn't neutropenic. On D/C WBC was 2.4.
-Thrombocytopenia has continued to decrease platelets on D/C 56 
(known ITP).
-Tamiflu D1 ___ last day ___
# Code Status: Full Code confirmed
# Emergency Contact/HCP: Son ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 20 mg PO BID 
2. Acetaminophen w/Codeine 1 TAB PO DAILY:PRN head ache 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
5. ClonazePAM 1 mg PO QID:PRN anxiety 
6. FeroSul (ferrous sulfate) 325 mg (65 mg iron) oral DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID 
9. Furosemide 20 mg PO DAILY 
10. Gabapentin 600 mg PO TID 
11. GlipiZIDE XL 10 mg PO BID 
12. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
13. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
14. Lisinopril 5 mg PO DAILY 
15. MetFORMIN (Glucophage) 1000 mg PO BID 
16. Montelukast 10 mg PO DAILY 
17. Nortriptyline 10 mg PO QHS 
18. Omeprazole 20 mg PO BID 
19. QUEtiapine Fumarate 200 mg PO QHS 
20. Simvastatin 40 mg PO DAILY 
21. Cetirizine 10 mg PO DAILY 
22. Docusate Sodium 100 mg PO BID:PRN constipation 
23. DiCYCLOmine 10 mg PO BID 

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
2. ClonazePAM 1 mg PO QID:PRN anxiety 
3. DiCYCLOmine 10 mg PO BID 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Fluoxetine 20 mg PO BID 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
7. Gabapentin 600 mg PO TID 
8. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
9. Montelukast 10 mg PO DAILY 
10. Nortriptyline 10 mg PO QHS 
11. Omeprazole 20 mg PO BID 
12. QUEtiapine Fumarate 200 mg PO QHS 
13. Simvastatin 40 mg PO DAILY 
14. OSELTAMivir 30 mg PO Q12H 
Last day ___ 
RX *oseltamivir [Tamiflu] 30 mg 1 capsule(s) by mouth every 12 
hours Disp #*3 Capsule Refills:*0
15. PredniSONE 40 mg PO DAILY 
Last day ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0
16. Acetaminophen w/Codeine 1 TAB PO DAILY:PRN head ache 
17. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath 
18. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
19. FeroSul (ferrous sulfate) 325 mg (65 mg iron) oral DAILY 
20. Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID 
21. Furosemide 20 mg PO DAILY 
22. GlipiZIDE XL 10 mg PO BID 
23. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
24. Lisinopril 5 mg PO DAILY 
25. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Flu A
Asthma Flare

Secondary:
Thrombocytopenia
DM2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ on ___ for fevers, headache, and 
body aches. We found that you had the flu which caused you to 
have an asthma flare. We treated you with medications and your 
symptoms improved. You told us you had abdominal pain which was 
likely because of all your vomiting. Your x-ray did not show 
anything concerning and your labs were stable. Your symptoms 
should continue to improve after you leave. Please take all of 
your medications as prescribed and attend all of your follow up 
appointments, particularly the scheduled follow-up you mentioned 
with your primary care provider this coming ___. Take care 
and be well.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___